US06426418B1
Preparation of 3-Hydroxy-N,1,6-trimethyl-oxo-1,4-dihydropyridine-2-carboxamide
Pd(OH)2 on charcoal (0.2 g) was added to a solution of 3-(benzyloxy)-N,1,6-trimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide (1.25 g, 4.366 mmol) in ethanol (120 ml) under nitrogen. The mixture was hydrogenated at 50 psi hydrogen for 4 hrs. The Pd(OH)2 was removed by filtration through Celite and the Celite cake was washed with ethanol (3×25 ml). The Celite cake was further stirred with ethanol (100 ml). and then filtered through Celite. The combined ethanol filtrate was evaporated to give a solid (0.86 g, quantitative yield). Melting point: >250° C. H-NMR (CDCl3: DMSO-d6 [2:11]) δ: 1.81 (s, 3H, Me), 2.34 (d, 3H, NHMe), 3.01 (s, 3H, NMe), 5.67 (s, 1H, CH), 7.88 (s, 1H, NH). Elemental Analysis: Calc. C 55.09; H 6.6; N 14.28. Found. C 54.67; H 6.31; N 14.12.

reactant | 3-(benzyloxy)-N,1,6-trimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide | 4.366 mmol, 1.25 g | C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C)C)C(=O)NC | C16H18N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 on charcoal | 0.2 g | [OH-].[OH-].[Pd+2]
product | 3-Hydroxy-N,1,6-trimethyl-oxo-1,4-dihydropyridine-2-carboxamide | 0.86 g, quantitative yield | OC1=C(N(C(=CC1=O)C)C)C(=O)NC | C9H12N2O3
